US05422358
Preparation of 3-(R, S)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxyphenethyl)-piperidine
A mixture containing 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine (0.4 g), 4-hydroxyphenethyl bromide (0.32 g), sodium bicarbonate (0.5 g) and acetonitrile (15 ml) was heated under reflux for 4 hours. The mixture was concentrated in vacuo and the residue partitioned between dichloromethane (50 ml) and 10% aqueous potassium carbonate (50 ml). The layers were separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.267 g.

reactant | 3-(R,S)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.4 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H20N2
reactant | 4-hydroxyphenethyl bromide | 0.32 g | OC1=CC=C(CCBr)C=C1 | C8H9BrO
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(R, S)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxyphenethyl)-piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCC1=CC=C(C=C1)O | C27H28N2O
